US06002008
4-(3-Aminophenylamino)-6,7-dimethoxy-3-quinolinecarbonitrile
A stirred mixture of 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile (3.73 g, 15 mmol), 1,3-diaminobenzene (4.86 g, 45 mmol), pyridine (1.21 ml, 15 mmol), and 45 ml of ethoxyethanol was refluxed for 30 m, cooled, and stirred with aqueous sodium bicarbonate. The resulting solid was filtered, washed with water, and dried. Recrystallization from ethanol gave a brown solid, mp 222-228° C.

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | 15 mmol, 3.73 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | 1,3-diaminobenzene | 45 mmol, 4.86 g | NC1=CC(=CC=C1)N | C6H8N2
reactant | pyridine | 15 mmol, 1.21 ml | N1=CC=CC=C1 | C5H5N
reactant | ethoxyethanol | 45 ml | C(C)OC(C)O | C4H10O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 4-(3-Aminophenylamino)-6,7-dimethoxy-3-quinolinecarbonitrile | NC=1C=C(C=CC1)NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C18H16N4O2
